US05011931
A solution of t-butyl 4-fluoro-2-methylaminobenzoate (28.9 g) in dimethylsulphoxide (133 ml) was added to a solution of potassium t-butoxide (72.2 g) in dimethylsulphoxide (300 ml) at ambient temperature under nitrogen. The stirred mixture was heated at 50° for eight hours and then cooled to ambient temperature. Water (1300 ml) was added to the mixture whilst maintaining the temperature below 35°. Extraction with trichloromethane and evaporation of the extract in vacuo gave 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone, m.p. 129°-134°.

reactant | t-butyl 4-fluoro-2-methylaminobenzoate | 28.9 g | FC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC | C12H16FNO2
reactant | potassium t-butoxide | 72.2 g | CC(C)([O-])C.[K+]
reactant | Water | 1300 ml | O | H2O
reactant | dimethylsulphoxide | 133 ml | CS(=O)C | C2H6OS
reactant | dimethylsulphoxide | 300 ml | CS(=O)C | C2H6OS
product | 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone | FC1=CC(=C(C=C1)C(CS(=O)C)=O)NC | C10H12FNO2S
